US06815448B2
2-Methyl-8-{[4-phenyl-3,6-dihydro-1(2H)-pyridinyl]methyl}-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalene
(8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl 4-methylbenzenesulfonate (0.40 g, 1.1 mmole) and 4-(3-trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine (0.35 g, 1.54 mmole) were combined in 5 mL of DMF and 5 ml of THF under nitrogen. This solution was refluxed under nitrogen for overnight. After completion, the reaction was cooled to room temperature and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried over magnesium sulfate and concentrated in vacuum. The resulting crude oil was column chromatographed on silica gel using first methylene chloride to remove impurities and then 1% methanol/methylene chloride to elute the (S)-enantiomer of the title compound. This was recrystallized from ethanol with the addition of one equivalent of fumaric acid to give 80 mg of white solid, m.p. 170-173° C.

reactant | (8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl 4-methylbenzenesulfonate | 1.1 mmole, 0.40 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=3N=C(OC32)C)OC1 | C18H17NO6S
reactant | 4-(3-trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine | 1.54 mmole, 0.35 g | FC(C=1C=C(C=CC1)C=1CCNCC1)(F)F | C12H12F3N
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | fumaric acid | one equivalent | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-8-{[4-phenyl-3,6-dihydro-1(2H)-pyridinyl]methyl}-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalene | 80 mg | CC1=NC=2C(=C3OC(COC3=CC2)CN2CCC(=CC2)C2=CC=CC=C2)O1 | C22H22N2O3
